US06369002B1
Preparation of 1-(3-fluoro-5-chloropyridin-2-yl)-3-methyl-4-trifluoromethylpyrimidin-2,6-dione
Under a nitrogen atmosphere, while cooling and stirring, a solution of 22.7 g 4,4,4-trifluoro-3-amino-2-butenoic acid ethyl ester is added dropwise to 5.1 g of a sodium hydride dispersion (60%) in 60 ml N-methylpyrrolidine at 0-5° C. and stirred at 22° C. until hydrogen evolution is complete. Then 23.7 g 2-ethoxicarbonylamino-3-fluoro-5-chloropyridine (Example H1) is added and the reaction mixture heated for about 5 hours to 120° C. The mixture is then cooled, 16.7 g methyl iodide is added dropwise and stirring is continued overnight at 22° C. After the reaction mixture has been taken up in ethyl acetate, it is washed with ice water, dried over sodium sulfate, filtered, and concentrated by evaporation. The residue obtained is recrystallized from ethyl acetate/n-hexane. The title compound is obtained with a melting point of 133-134° C.

reactant | 4,4,4-trifluoro-3-amino-2-butenoic acid ethyl ester | 22.7 g | C(C)OC(C=C(C(F)(F)F)N)=O | C6H8F3NO2
reactant | sodium hydride | 5.1 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-ethoxicarbonylamino-3-fluoro-5-chloropyridine | 23.7 g | C(C)OC(=O)NC1=NC=C(C=C1F)Cl | C8H8ClFN2O2
reactant | methyl iodide | 16.7 g | CI | CH3I
solvent | N-methylpyrrolidine | 60 ml | CN1CCCC1 | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-fluoro-5-chloropyridin-2-yl)-3-methyl-4-trifluoromethylpyrimidin-2,6-dione | FC=1C(=NC=C(C1)Cl)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C11H6ClF4N3O2
